US05972965
To a solution of 1-[N-methyl-N-[(4,5-diphenyloxazol-9-yl)methyl]amino]-2,3-dihydro-4-methoxy-1H-indene (109 mg) in dichloromethane (2 ml) was added 1M boron tribromide dichloromethane solution (1 ml) at 0° C. After being stirred for 4 hours at 0° C., the solvent was evaporated in vacuo. The residue was extracted with ethyl acetate. The mixture was washed with brine, dried over MgSO4 and evaporated in vacuo to afford crude 1-[N-methyl-N-[4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-hydroxy-1H-indene (109 mg). To a solution of crude 1-[N-methyl-N-[(4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-hydroxy-1H-indene (109 mg) and ethyl bromoacetate (80 mg) in DMF (3 ml) was added K2CO3 (80 mg). After being stirred for 24 hours, the solution was extracted with ethyl acetate. The mixture was washed with brine, dried over MgSO4 and evaporated on vacuo. The residue was purified by chromatography on silica gel to afford 1-[N-methyl-N-[(4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-ethoxycarbonylmethoxy-1H-indene (80 mg) MS (m/z): 483 (M+ +1) NMR (CDCl3, δ): 1.29 (3H, t, J=7.1 Hz), 1.98-2.21 (2H, m), 2.41 (3H, s), 2.75-3.18 (2H, m), 3.78 (1H, d, J=12 Hz), 3.82 (1H, d, J=12 Hz), 4.25 (2H, q, J=7.1 Hz), 4.63 (2H, s), 4.55-4.65 (1H, m), 6.62 (1H, m), 7.15-7.18 (2H, m), 7.25-7.45 (6H, m), 7.60-7.75 (4H, m)

reactant | 1-[N-methyl-N-[(4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-hydroxy-1H-indene | 109 mg | CN(CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C1CCC2=C(C=CC=C12)O | C26H24N2O2
reactant | ethyl bromoacetate | 80 mg | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 80 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-[N-methyl-N-[(4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-ethoxycarbonylmethoxy-1H-indene | 80 mg | CN(CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C1CCC2=C(C=CC=C12)OCC(=O)OCC | C30H30N2O4
